* Quick'n'dirty behavioural model of Microchip LR8 high voltage regulator
* Tony Casey, tony@ritecom.com, 20200524
*
* Displays reasonable approximations to:
*   Transient response to load, &
*   Load regulation 500uA < Iload < 10mA: ~1.4%
*   Turn-on voltage for Vout=5V
*   - according to Fig 3-7 in datasheet
*
.subckt LR8 IN ADJ OUT
S1 OUT IN N001 OUT mySW
b1 N001 REF i=v(OUT, REF)*1m Rpar=90k cpar=10f
I1 IN N001 10u load
D1 ADJ REF D1V2
C2 OUT N001 40p Rser=350k
.model D1V2 D(Vfwd=0.6 Vrev=1.21 Ron=10 Roff=100Meg Rrev=2 )
.model mySW SW(Ron=10 Roff=1Meg Vser=2 Vt=5 Vh=-2 Ilimit=20m level=2 oneway)
.ends LR8
